US07687627B2
(S)-N-{3-[4-(1-oxa-3-thia-8-aza-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.275 mmol) and 3-hydroxypropanethiol (mmol) in at a temperature ° C. for hours in % yield. Mp; 114-116° C., Mass m/z 424.1 (ES+, 100%) for C20H26FN3O4S.

reactant | (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.275 mmol | O1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C18H22FN3O4
reactant | 3-hydroxypropanethiol | OCCCS | C3H8OS
product | (S)-N-{3-[4-(1-oxa-3-thia-8-aza-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | O1CSCC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C19H24FN3O4S
